US09334286B2
Preparation 149: (4-Bromo-1-methyl-1H-pyrazol-5-yl)methanol
To a solution of 4-bromo-1-methyl-1H-pyrazole-5-carbaldehyde (677 mg, 3.58 mmol) in MeOH (8 mL) at 0° C., NaBH4 (136 mg, 0.86 mmol) was added. The solution was stirred at room temperature for 2 hours. The reaction was concentrated in vacuo and diluted with water. The solution was extracted with EtOAc, the organic layer collected, dried over sodium sulphate and concentrated in vacuo to afford the title compound as a white solid (614 mg, 90%).

reactant | 4-bromo-1-methyl-1H-pyrazole-5-carbaldehyde | 3.58 mmol, 677 mg | BrC=1C=NN(C1C=O)C | C5H5BrN2O
reactant | NaBH4 | 0.86 mmol, 136 mg | [BH4-].[Na+]
solvent | MeOH | 8 mL | CO | CH4O
product | (4-Bromo-1-methyl-1H-pyrazol-5-yl)methanol | 614 mg, 90% | BrC=1C=NN(C1CO)C | C5H7BrN2O
